US06492400B1
Part A: Preparation of 4-benzyl-1-carbomethoxymethyl-1-[3-(3 -cyanophenylaminocarbonylamino)prop-1-yl]piperidinium bromide
4-benzyl-1-[3-(3-cyanophenylaminocarbonylamino)prop-1-yl]piperidine (50 mg, 0.133 mmol, 1 eq), was dissoved in acetone at 25° C. under N2 then methyl bromoacetate (13 μL, 0.133 mmol, 1 eq),was added. After 16 hours, the solvent was removed in vacuo and the residue was purified over silica gel in 100% EtOAc to 8:2 chloroform/MeOH to yield 50 mg of white solids as product. NMR (300 MHz, CD3OD) δ8.00-7.80 (m, 1H) ; 7.65-7.45 (m, 1H); 7.45-7.33 (m, 1H); 7.33-7.05 (m, 6H); 4.50-4.25 (m, 2H); 4.00-3.60 (m, 5H); 3.50-3.20 (m, 6H); 2.70-2.50 (m, 2H); 2.10-1.60 (m, 7H).

reactant | 4-benzyl-1-[3-(3-cyanophenylaminocarbonylamino)prop-1-yl]piperidine | 0.133 mmol, 50 mg, 1 eq | C(C1=CC=CC=C1)C1CCN(CC1)CCCNC(=O)NC1=CC(=CC=C1)C#N | C23H28N4O
reactant | methyl bromoacetate | 0.133 mmol, 13 μL, 1 eq | BrCC(=O)OC | C3H5BrO2
solvent | acetone | CC(=O)C | C3H6O
product | 4-benzyl-1-carbomethoxymethyl-1-[3-(3 -cyanophenylaminocarbonylamino)prop-1-yl]piperidinium bromide | 50 mg | [Br-].C(C1=CC=CC=C1)C1CC[N+](CC1)(CCCNC(=O)NC1=CC(=CC=C1)C#N)CC(=O)OC | InChI=1S/C26H32N4O3.BrH/c1-33-25(31)20-30(15-11-22(12-16-30)17-21-7-3-2-4-8-21)14-6-13-28-26(32)29-24-10-5-9-23(18-24)19-27;/h2-5,7-10,18,22H,6,11-17,20H2,1H3,(H-,28,29,32);1H
